US07892702B2
Step 4: 5-Phenyl-12-(phenylethynyl)naphthacene
5-Bromo-12-phenylnaphthacene (0.600 g, 1.565 mmol), 15 mg of copper(I) iodide (0.0783 mmol), 41 mg of triphenylphosphine (0.157 mmol) and 55 mg of dichlorobis(triphenylphosphine)palladium(II) catalyst (0.0783 mmol) were added to an oven-dried glass pressure tube equipped with a magnetic stirrer. Dry triethylamine (20 ml) was added and the mixture was degassed with nitrogen for 15 minutes. Phenylacetylene (0.176 g, 0.19 ml, 1.72 mmol) was then added by syringe. The tube was sealed and heated in an oil bath to 95° C. while covered with aluminum foil to exclude light (for the duration of the reaction and work up, exposure to light was minimized). The reaction mixture was heated for three hours, and then allowed to cool slowly. The tube contents were dark red with a white precipitate. Upon further cooling, a dark red precipitate formed. TLC analysis with 30% dichlormethane/hexanes showed that all 5-bromo-12-phenylnaphthacene had been consumed.

reactant | 5-Bromo-12-phenylnaphthacene | 1.565 mmol, 0.600 g | BrC1=C2C=CC=CC2=C(C2=CC3=CC=CC=C3C=C12)C1=CC=CC=C1 | C24H15Br
reactant | triphenylphosphine | 0.157 mmol, 41 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Phenylacetylene | 1.72 mmol, 0.19 ml, 0.176 g | C1(=CC=CC=C1)C#C | C8H6
reactant | aluminum | [Al] | Al
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.0783 mmol, 55 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.0783 mmol, 15 mg | [Cu]I
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 5-Phenyl-12-(phenylethynyl)naphthacene | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC3=CC=CC=C3C=C12)C#CC1=CC=CC=C1 | C32H20
